US07838499B2
Preparation of 4-bromo-1-chloro-2-(4-(2-cyclobutoxyethoxy)benzyl)benzene (Intermediate CL)
To a solution of cyclobutanol (260 mg, 3.6 mmol) in anhydrous tetrahydrofuran (4 mL) was added sodium hydride (138 mg, 5.7 mmol) in portions at 0° C. The mixture was stirred at 0° C. for 30 min, and then 2-(4-(5-bromo-2-chlorobenzyl)phenoxy)ethyl 4-methylbenzenesulfonate (intermediate AB) (300 mg, 0.6 mmol) was added in portions. The mixture was refluxed for 3 h, whereupon TLC showed the reaction was complete. The reaction mixture was quenched with saturated ammonium chloride, extracted with ethyl acetate, washed with water and then with brine, dried over anhydrous sodium sulfate, and concentrated to a crude oil. The crude oil was purified by column chromatography (PE:EA=10:1) to get intermediate CL as an oil product (117 mg, yield: ˜49%).

reactant | cyclobutanol | 3.6 mmol, 260 mg | C1(CCC1)O | C4H8O
reactant | sodium hydride | 5.7 mmol, 138 mg | [H-].[Na+]
reactant | 2-(4-(5-bromo-2-chlorobenzyl)phenoxy)ethyl 4-methylbenzenesulfonate | 0.6 mmol, 300 mg | CC1=CC=C(C=C1)S(=O)(=O)OCCOC1=CC=C(C=C1)CC1=C(C=CC(=C1)Br)Cl | C22H20BrClO4S
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 4-bromo-1-chloro-2-(4-(2-cyclobutoxyethoxy)benzyl)benzene | 117 mg, yield: ˜49% | BrC1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)OCCOC1CCC1 | C19H20BrClO2
